US06143763
1-Amino-2-butanol (120 g) is added dropwise into a solution of cyclohexanone (132 g) in ethanol (600 ml) at room temperature, and the mixture is stirred at room temperature for one day. To the reaction solution is added 10% palladium-carbon (6 g), and the mixture is subjected to catalytic hydrogenation at 60° C. under 4 atms of hydrogen gas. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure, and distilled under reduced pressure to give N-(2-hydroxybutyl)-N-cyclohexylamine (223 g) as a colorless oil.

reactant | 1-Amino-2-butanol | 120 g | NCC(CC)O | C4H11NO
reactant | cyclohexanone | 132 g | C1(CCCCC1)=O | C6H10O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 6 g | [C].[Pd]
product | N-(2-hydroxybutyl)-N-cyclohexylamine | 223 g | OC(CNC1CCCCC1)CC | C10H21NO
